US08835431B2
a. 4-Nitro-1-p-tolyl-1H-pyrazole (Intermediate 6a)
To 4-tolylboronic acid (544 mg, 4.00 mmol), 4-nitropyrazole (226 mg, 2.00 mmol), copper (II) acetate (545 mg, 3.00 mmol), and 4 Å sieves (1.5 g) in DCM (15 mL), was added pyridine (0.32 mL, 4 mmol) at RT, and stirred for 5 h. The mixture was filtered through Celite, washing with DCM, then evaporated to dryness. The residue was purified by FCC, eluting with 0-30% ethyl acetate in cyclohexane, to give the title compound as a white solid (126 mg, 31%). LCMS (Method 3): Rt 3.93 min, m/z 204.1 [MH−].

reactant | 4-tolylboronic acid | 4.00 mmol, 544 mg | C1(=CC=C(C=C1)B(O)O)C | C7H9BO2
reactant | 4-nitropyrazole | 2.00 mmol, 226 mg | [N+](=O)([O-])C=1C=NNC1 | C3H3N3O2
reactant | pyridine | 4 mmol, 0.32 mL | N1=CC=CC=C1 | C5H5N
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
catalyst | copper (II) acetate | 3.00 mmol, 545 mg | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | 4-Nitro-1-p-tolyl-1H-pyrazole | 126 mg, 31% | [N+](=O)([O-])C=1C=NN(C1)C1=CC=C(C=C1)C | C10H9N3O2
